US05773388
Synthesis of 4-(4-Chlorophenyl)-5-(2,2-dimethyl-1-hydroxypropyl)pyrimidine (Compound No. 104)
1.2 g of 4-(4-chlorophenyl)-5-pivaloylpyrimidine was dissolved in 20 ml of ethanol, then 1.2 g of a borane ammonia complex was added, and the mixture was stirred at room temperature for 30 minutes. After the solvent was distilled off under reduced pressure, water was added, and extraction with chloroform was carried out. The extract layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 0.8 g of the desired product as a viscous liquid. nD20.2 1.5575

reactant | 4-(4-chlorophenyl)-5-pivaloylpyrimidine | 1.2 g | ClC1=CC=C(C=C1)C1=NC=NC=C1C(C(C)(C)C)=O | C15H15ClN2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(4-Chlorophenyl)-5-(2,2-dimethyl-1-hydroxypropyl)pyrimidine | 0.8 g | ClC1=CC=C(C=C1)C1=NC=NC=C1C(C(C)(C)C)O | C15H17ClN2O
